US04221788
2-(4-methylbenzyl)perhydroazepine
Using the mode of operation described in Example 52 obtain 1.6 g of the title compound as oil with a BP of 82° to 85° at 0.01 mm Hg from 2.8 of 7-(4-methylbenzyl)perhydroazepin-2-one and 0.5 of g lithium aluminum hydride.

reactant | 7-(4-methylbenzyl)perhydroazepin-2-one | CC1=CC=C(CC2CCCCC(N2)=O)C=C1 | C14H19NO
reactant | lithium aluminum hydride | [H-].[Al+3].[Li+].[H-].[H-].[H-]
product | 2-(4-methylbenzyl)perhydroazepine | 1.6 g | CC1=CC=C(CC2NCCCCC2)C=C1 | C14H21N
